US04344963
7.1 g (0.025 mol) of 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid were dissolved in 100 ml of carbon tetrachloride, and 9 g of thionyl chloride were slowly added dropwise at 25° C., while stirring. The mixture was then heated to the reflux temperature for 4 hours. After this reaction time, excess thionyl chloride and carbon tetrachloride were distilled off under a waterpump vacuum. The oil which remained was freed from last residues of solvent by brief incipient distillation at a bath temperature of 40° C./2 mm Hg. 7 g (92.7% of theory) of 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid chloride were obtained. The structure was confirmed by the 1H-NMR spectrum.

reactant | 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid | 0.025 mol, 7.1 g | CC1(C(C1C=C(C1=CC=CC=C1)C(F)(F)F)C(=O)O)C | C15H15F3O2
reactant | thionyl chloride | 9 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2-dimethyl-3-(2-trifluoromethyl-2-phenyl-vinyl)-cyclopropanecarboxylic acid chloride | 7 g, 92.7% | CC1(C(C1C=C(C1=CC=CC=C1)C(F)(F)F)C(=O)Cl)C | C15H14ClF3O
